US06699879B1
2-Ethyl-5-nitrobenzoic Acid
Ethyl-5-nitrobenzoic acid methyl ester (1.0 g) in methanol/2N sodium hydroxide (60 ml, 1:1) was stirred for 1 h at 60° C. Half the solvent was removed at reduced pressure, the residue diluted with water (20 ml), washed with dichloromethane and the aqueous phase acidified with 2N HCl. The acidic phase was extracted with dichloromethane, the combined extracts dried (MgSO4) and solvent removed at reduced pressure to give the title compound (0.45 g) as a colourless solid. 1H NMR (CDCl3) δ: 1.32 (3H, t, J=7.6 Hz), 3.19 (2H, q, J=7.6 Hz), 7.52 (1H, d, J=8.4 Hz), 8.33 (1H, dd, J=2.5, 8.4 Hz), 8.90 (1H, d, J=2.5 Hz).

reactant | Ethyl-5-nitrobenzoic acid methyl ester | 1.0 g | COC(C1=C(C=CC(=C1)[N+](=O)[O-])CC)=O | C10H11NO4
solvent | methanol | 2N, 60 ml | CO | CH4O
product | 2-Ethyl-5-nitrobenzoic Acid | 0.45 g | C(C)C1=C(C(=O)O)C=C(C=C1)[N+](=O)[O-] | C9H9NO4
